US09226922B2
6-Chloro-3-methoxy-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine (1.5 g, 3.41 mmol) was dissolved in CCl4 (10 mL), charged with NBS (637 mg, 3.58 mmol) and AlBN (56.0 mg, 0.341 mmol), and heated to 70° C. overnight. The reaction was diluted with DCM (10 mL) and purified by flash chromatography (5-25% EtOAc/hexanes) to give 4-(bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine. MS ESI calc'd. for C27H21BrClN3O [M+1]+519. found 519.

reactant | 6-Chloro-3-methoxy-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | 3.41 mmol, 1.5 g | ClC1=CC2=C(C(=N1)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC | C27H22ClN3O
reactant | NBS | 3.58 mmol, 637 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(bromomethyl)-6-chloro-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine | BrCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)Cl | C27H21BrClN3O
